US06586617B1
Synthesis of N-(4-Chloro-2-nitrophenyl)-N,3,5-trimethyl-4-isoxazolesulfonamide (Compound No. 376)
To a suspension of sodium hydride (65%, 0.05 g (1.36 mmol)) in DMF (3.0 ml), N-(4-chloro-2-nitrophenyl)-3,5-dimethyl-4-isoxazolesulfonamide (0.30 g (0.90 mmol)) was added with stirring at room temperature. To the mixture, after stirring for one hour at room temperature, dimethyl sulfate (0.13 ml (1.36 mmol)) was added dropwise, and the mixture was stirred for 16 hours. Water (20.0 ml) was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography with acetone-hexane (1:4) as eluent, to give 0.11 g (35%) of the title compound as white crystals.

reactant | sodium hydride | 1.36 mmol, 0.05 g | [H-].[Na+]
reactant | N-(4-chloro-2-nitrophenyl)-3,5-dimethyl-4-isoxazolesulfonamide | 0.90 mmol, 0.30 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C=1C(=NOC1C)C)[N+](=O)[O-] | C11H10ClN3O5S
reactant | dimethyl sulfate | 1.36 mmol, 0.13 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | Water | 20.0 ml | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | N-(4-Chloro-2-nitrophenyl)-N,3,5-trimethyl-4-isoxazolesulfonamide | 0.11 g, 35% | ClC1=CC(=C(C=C1)N(S(=O)(=O)C=1C(=NOC1C)C)C)[N+](=O)[O-] | C12H12ClN3O5S
